US08232294B2
Step 6) 2-(1-(benzoyloxy)cyclopropyl)ethyl methanesulfonate
To a mixture of 1-(2-hydroxyethyl)cyclopropyl benzoate (320 mg, 1.55 mmol) and TEA (235 mg, 2.33 mmol, Shantou Xilong chemical factory) in 20 mL of dry CH2Cl2, was added MsCl (213 mg, 1.86 mmol, Shanghai Haiqu chemical Ltd.) dropwise via a syringe at rt. After stirring for 2 hrs at rt, the mixture was diluted with icewater and extracted with CH2Cl2 (30 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo to give the title compound as a pale yellow solid (400 mg, 90%).

reactant | 1-(2-hydroxyethyl)cyclopropyl benzoate | 1.55 mmol, 320 mg | C(C1=CC=CC=C1)(=O)OC1(CC1)CCO | C12H14O3
reactant | MsCl | 1.86 mmol, 213 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(benzoyloxy)cyclopropyl)ethyl methanesulfonate | 400 mg, 90% | CS(=O)(=O)OCCC1(CC1)OC(C1=CC=CC=C1)=O | C13H16O5S
